US09085555B2
A. 6-Vinyl-1H-indole-3-carbaldehyde
6-bromoindole-3-carboxaldehyde (5 g, 22.3 mmol), potassium vinyltrifluoroborate (4.48 g, 33.5 mmol), PdCl2 (396 mg, 2.23 mmol), PPh3 (1.75 mg, 6.7 mmol) and Cs2CO3 (2.18 mg, 66.9 mmol) were combined in a 500 mL flask placed under a nitrogen atmosphere. THF (135 mL) and H2O (15 mL) were added and the yellow solution was heated at 85° C. for 2 days. The reaction was allowed to cool to RT, water was added and the mixture was extracted twice with CH2Cl2. The combined organic layers were dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 1:1) to give the title compound. TLC, Rf (c-hexane/EtOAc 1:1)=0.4; MS (LC/MS): 172.0 [M+H]+ 170.1 [M−H]−; tR (HPLC conditions a): 2.95 min.

reactant | 6-bromoindole-3-carboxaldehyde | 22.3 mmol, 5 g | BrC1=CC=C2C(=CNC2=C1)C=O | C9H6BrNO
reactant | potassium vinyltrifluoroborate | 33.5 mmol, 4.48 g | C(=C)[B-](F)(F)F.[K+]
reactant | PPh3 | 6.7 mmol, 1.75 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Cs2CO3 | 66.9 mmol, 2.18 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | PdCl2 | 2.23 mmol, 396 mg | Cl[Pd]Cl
solvent | water | O | H2O
solvent | H2O | 15 mL | O | H2O
solvent | THF | 135 mL | C1CCOC1 | C4H8O
product | 6-Vinyl-1H-indole-3-carbaldehyde | C(=C)C1=CC=C2C(=CNC2=C1)C=O | C11H9NO
